Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin / cefepime
 
Attending: ___
 
Chief Complaint:
elective admission for D5 HiDAC
 
Major Surgical or Invasive Procedure:
PICC placement and removal prior to discharge

 
History of Present Illness:
___ female diagnosed with AML in ___. She has
trisomy 8 and has the FLT3 ITD mutation. She has a PMH of
Hodgkins lymphoma, which was diagnosed at ___. She was treated
at the time with ABVD, MOPO, XRT. 

She was treated with 7+3 (Dauno 60) in ___. Treatment was
complicated by leukostasis, febrile neutropenia, transaminitis,
and rash. After discharge, she had a liver biopsy, which 
revealed drug injury vs early viral infection.

She presents for a cycle of HiDAC as a bridge to planned MUD 
allo at ___ in approximately ___ weeks.

 
Past Medical History:
Hodgkin's lymphoma at age ___ s/p ABVD (doxyrubicin, bleomycin, 
vinblastine, dacarbazine), MOPP and radiation
Hypothyroidism
Anxiety
Right chondromalacia patella
History of HPV

Past Surgical History:
Breast biopsy
Port placement for chemotherapy
 
Social History:
___
Family History:
Per pt, family history is positive for heart disease.  OMR also 
shows family history of:
HLD, HTN, enlarged prostate (father)
HLD, anxiety, MVP (mother)
___
 
Physical Exam:
GEN:  NAD
VS: T 98  HR 77  BP 98/60 Resp 18  spO2 99%
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD
CV:  Regular, normal S1 and S2 no S3, S4, or murmurs
PULM:  Clear to auscultation bilaterally
ABD:  BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly
LIMBS:  No edema, no inguinal adenopathy
SKIN:  No rashes or skin breakdown
NEURO:  Grossly nonfocal, alert and oriented, PERRLA, no
nystagmus noted. rapid hand movements intact. romberg neg. 
tandem
gait intact.

 
Pertinent Results:
___ 12:15AM BLOOD WBC-6.3 RBC-3.25* Hgb-10.5* Hct-33.1* 
MCV-102* MCH-32.2* MCHC-31.6 RDW-16.3* Plt ___
___ 12:00AM BLOOD WBC-6.6 RBC-3.35* Hgb-10.8* Hct-34.4* 
MCV-103* MCH-32.1* MCHC-31.3 RDW-16.3* Plt ___
___ 12:15AM BLOOD Neuts-92.7* Lymphs-4.4* Monos-1.3* 
Eos-1.2 Baso-0.4
___ 12:00AM BLOOD Neuts-93.3* Lymphs-4.5* Monos-1.4* 
Eos-0.6 Baso-0.1
___ 12:15AM BLOOD Glucose-134* UreaN-21* Creat-0.5 Na-139 
K-4.3 Cl-104 HCO3-29 AnGap-10
___ 12:00AM BLOOD Glucose-138* UreaN-16 Creat-0.5 Na-139 
K-4.4 Cl-103 HCO3-28 AnGap-12
___ 12:15AM BLOOD ALT-168* AST-85* LD(___)-153 AlkPhos-55 
TotBili-0.3
___ 12:00AM BLOOD ALT-142* AST-68* LD(___)-176 AlkPhos-62 
TotBili-0.3
___ 12:15AM BLOOD Albumin-3.8 Calcium-9.0 Phos-4.1 Mg-2.0
___ 12:00AM BLOOD Albumin-4.0 Calcium-9.3 Phos-3.6 Mg-2.___ year old female with AML, question treatment related. High
risk given cytogenetics and FLT3 mutation. Based on insurance
requirements will have MUD allo at ___. She is admitted for
cycle 1 day 5 of HiDAC consolidation. 

# AML: cytarabine 1.5g/m^2 over 2 hours every 12 hours D1 D3 D5
for a total of 6 doses. 
- 50% dose reduction with known hepatic drug damage
- Supportive antiemetics with dexamethasone, prochlorperazine, 
ativan and ondansetron. Provided scripts at ___ d/c.
- f/u outpatient next ___ or sooner if problems arise.

# conjunctivitis prophylaxis: PDN gtt TID until ___ after last
cytarabine infusion (continues at home)

# cerebellar toxicity: cerebellar testing to be done prior to
each dose of cytarabine. Testing has been normal thus far.

# transaminitis: overall improving, thought to be drug injury.
Monitor labs.

# hypothyroidism: continue home levothyroxine 125mgc daily.

# Prophylaxis: none per Dr ___

# DVT prophylaxis: heparin
# F/E/N: replace electrolytes prn. IVF as ordered.
# Access: R PICC d/c prior to discharge
# code status Full
# dispo: Home D6 after chemo cycle completes

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Lorazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia 

 
Discharge Medications:
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Lorazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia 
3. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AML

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to receive HiDAC chemotherapy. You tolerated 
this well with no issues. You will follow up next ___ as 
stated below. Please do not hesitate to call in the meantime 
with any questions or concerns.
 
Followup Instructions:
___